US07589234B2
An aqueous solution of CF3CF2CF2OCH2CF2COONH4 (20.2% by mass) was prepared in the same manner as in Synthesis Example 1 except that the CF3CF2CF2OCH2CF2COOH prepared in Synthesis Example 1 was neutralized to pH 7 using aqueous ammonia in lieu of the aqueous solution of sodium hydroxide.

reactant | CF3CF2CF2OCH2CF2COOH | C(F)(F)(F)C(F)(F)C(F)(F)OCC(F)(F)C(=O)O | C6H3F9O3
reactant | ammonia | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
product | CF3CF2CF2OCH2CF2COONH4 | C(F)(F)(F)C(F)(F)C(F)(F)OCC(F)(F)C(=O)[O-].[NH4+] | InChI=1S/C6H3F9O3.H3N/c7-3(8,2(16)17)1-18-6(14,15)4(9,10)5(11,12)13;/h1H2,(H,16,17);1H3
